US05489593
1-[Indolyl-2-carbonyl]-4-[3-(1-pyrrolidinyl)-2-pyridinyl]piperazine (III)
Following the general procedure of EXAMPLE 16A and making non-critical variations but starting with indole-2-carboxylic acid (0.12 g), 1-[3-(1-pyrrolidinyl)-2-pyridinyl]piperazine (PREPARATION 48, 0.17 g) and 1-(ethyl)-3-(dimethylaminopropyl)carbodiimide (0.17 g), the title compound is obtained, mp 181°-182°.

reactant | indole-2-carboxylic acid | 0.12 g | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | 1-[3-(1-pyrrolidinyl)-2-pyridinyl]piperazine | 0.17 g | N1(CCCC1)C=1C(=NC=CC1)N1CCNCC1 | C13H20N4
reactant | 1-(ethyl)-3-(dimethylaminopropyl)carbodiimide | 0.17 g | C(C)N=C=NCCCN(C)C | C8H17N3
product | 1-[Indolyl-2-carbonyl]-4-[3-(1-pyrrolidinyl)-2-pyridinyl]piperazine | C1CCN(C1)C2=C(N=CC=C2)N3CCN(CC3)C(=O)C4=CC5=CC=CC=C5N4 | C22H25N5O
